US09351965B2
To a solution of N-(3-(benzylamino)-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide in MeOH was added palladium on charcoal (10%). The reaction mixture was stirred under an atmosphere of H2 at room temperature for overnight. The product, N-(3-amino-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was obtained after evaporation of solvent.

reactant | N-(3-(benzylamino)-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | C(C1=CC=CC=C1)NC1(CC(CCC1)NC(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=NC=C1)C)CC1=C(C=CC=C1)F | C53H48FN5O
solvent | MeOH | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | N-(3-amino-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | NC1(CC(CCC1)NC(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=NC=C1)C)CC1=C(C=CC=C1)F | C46H42FN5O
